US07981903B2
To a solution of 1,1-dimethylethyl(3,4-difluorophenyl)carbamate (8.0 g, 35 mmol) in tetrahydrofuran (250 mL) at −78° C. was slowly added tBuLi as a 1.7M solution in pentane (46 mL, 78.60 mmol, 2.25 equiv., Aldrich). The resulting bright yellow solution was maintained at −78° C. for 3 hours, at which time methylchloroformate (3.24 mL, 42 mmol, 1.20 equiv.) was added dropwise. After 45 minutes, aqueous ammonium chloride (100 mL) was added and the reaction was warmed to room temperature. The organic layer was washed with brine, taken to a residue under reduced pressure, and purified by chromatography on SiO2 (10 to 30% ethyl acetate/hexanes) to afford methyl 6-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2,3-difluorobenzoate as a pale yellow oil (5.8 g, 20.2 mmol, 58% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.48 (s, 9 H), 3.94 (s, 3 H), 7.21-7.28 (m, 1 H), 8.08 (ddd, J=9.25, 4.12, 2.20 Hz, 1 H), 9.44 (s, 1 H).

reactant | 1,1-dimethylethyl(3,4-difluorophenyl)carbamate | 35 mmol, 8.0 g | CC(C)(C)N(C([O-])=O)C1=CC(=C(C=C1)F)F
reactant | tBuLi | [Li]C(C)(C)C
reactant | pentane | 78.60 mmol, 46 mL, 2.25 equiv. | CCCCC | C5H12
reactant | methylchloroformate | 42 mmol, 3.24 mL, 1.20 equiv. | COC(=O)Cl | C2H3ClO2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | methyl 6-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-2,3-difluorobenzoate | 20.2 mmol, 5.8 g, 58% yield | CC(C)(C)OC(=O)NC1=CC=C(C(=C1C(=O)OC)F)F | C13H15F2NO4
